US05364871
A mixture of 2-(diaminomethyleneamino)-4-[6-(1-tert-butoxycarbonylpiperidin-3-yl)carbonylaminomethylpyridin-2-yl]thiazole (1.9 g) and 4N-methanolic hydrogen chloride (40 ml) was stirred for 7 hours at ambient temperature. To the reaction mixture was added a tetrahydrofuran (40 ml) and the isolated precipitate was collected by filtration. The precipitate was added to water and adjusted to pH 13 with 5N-sodium hydroxide. The mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-[6-(3-piperidyl)carbonylaminomethylpyridin-2-yl]thiazole (0.47 g).

reactant | 2-(diaminomethyleneamino)-4-[6-(1-tert-butoxycarbonylpiperidin-3-yl)carbonylaminomethylpyridin-2-yl]thiazole | 1.9 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C21H29N7O3S
reactant | hydrogen chloride | 40 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(diaminomethyleneamino)-4-[6-(3-piperidyl)carbonylaminomethylpyridin-2-yl]thiazole | 0.47 g | NC(N)=NC=1SC=C(N1)C1=NC(=CC=C1)CNC(=O)C1CNCCC1 | C16H21N7OS
